US09193726B2
Step 1. Synthesis of 1-chloro-4-[3-(methoxymethylidene)cyclohexyl]benzene (C5)
To a solution of (methoxymethyl)trimethylsilane (694 mg, 5.75 mmol) in tetrahydrofuran (6.8 mL) at −78° C. was added drop-wise sec-butyllithium (1.4 M, 4.45 mL, 6.23 mmol). The solution was warmed to −25° C., held at that temperature for 30 minutes, then cooled to −78° C. To the reaction was added drop-wise 3-(4-chlorophenyl)cyclohexanone (prepared according to the method of G. A. Whitlock et al., Bioorg. Med. Chem. Lett. 2009, 19, 3118-3121) (1.0 g, 4.8 mmol). The reaction was warmed to −25° C. and stirred for 30 minutes, then allowed to slowly warm to room temperature and stir for 48 hours. The reaction was diluted with tetrahydrofuran (10 mL), quenched with saturated aqueous ammonium chloride solution, and extracted three times with ethyl acetate. The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to provide the crude title compound as a pale yellow oil. Yield: 1.25 g. This material was used directly in the following step. GCMS m/z 236 (M+).

reactant | (methoxymethyl)trimethylsilane | 5.75 mmol, 694 mg | COC[Si](C)(C)C | C5H14OSi
reactant | sec-butyllithium | 6.23 mmol, 1.4 M, 4.45 mL | C(C)(CC)[Li]
reactant | 3-(4-chlorophenyl)cyclohexanone | ClC1=CC=C(C=C1)C1CC(CCC1)=O | C12H13ClO
solvent | tetrahydrofuran | 6.8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-chloro-4-[3-(methoxymethylidene)cyclohexyl]benzene | ClC1=CC=C(C=C1)C1CC(CCC1)=COC | C14H17ClO
